US07220759B2
Using a known method, (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methylisocoumarin was converted to a hydrochloride to give (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methylisocoumarin hydrochloride. 1H-NMR(DMSO-d6)δ: 1.70–2.18(4H, m), 2.47(3H, s), 3.08–3.22(3H, m), 3.60–3.85(5H, m), 5.51(1H, brs), 6.82(1H, s), 7.47(1H, t, J=8 Hz), 7.69(1H, d, J=7 Hz), 7.99(1H, d, J=8 Hz), 10.31(1H, brs)

reactant | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methylisocoumarin | OC[C@@H]1N(CCC1)CCC=1OC(=O)C2=CC=CC(=C2C1)C | C17H21NO3
reactant | hydrochloride | Cl | ClH
product | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methylisocoumarin hydrochloride | Cl.OC[C@@H]1N(CCC1)CCC=1OC(=O)C2=CC=CC(=C2C1)C | InChI=1S/C17H21NO3.ClH/c1-12-4-2-6-15-16(12)10-14(21-17(15)20)7-9-18-8-3-5-13(18)11-19;/h2,4,6,10,13,19H,3,5,7-9,11H2,1H3;1H/t13-;/m1./s1
